US04217453
A suspension of rhodium acetate (2 mg) and 3-azido-4-(3-benzyloxycarbonyl-3-diazo-2-oxopropyl)-azetidin-2-one (1 mmol) in anhydrous benzene (20 ml) is deoxygenated by bubbling nitrogen through it for 15 mins. The suspension is then stirred with heating in an oil bath at 80° C. for 30 min. After cooling to room temperature, the mixture is filtered and the filtrate is evaporated under vacuum to provide benzyl 6-azido-1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate.

reactant | 3-azido-4-(3-benzyloxycarbonyl-3-diazo-2-oxopropyl)-azetidin-2-one | 1 mmol | N(=[N+]=[N-])C1C(NC1CC(C(=[N+]=[N-])C(=O)OCC1=CC=CC=C1)=O)=O | C14H12N6O4
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
catalyst | rhodium acetate | 2 mg | C(C)(=O)[O-].[Rh+3].C(C)(=O)[O-].C(C)(=O)[O-]
product | benzyl 6-azido-1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate | N(=[N+]=[N-])C1C2CC(C(N2C1=O)C(=O)OCC1=CC=CC=C1)=O | C14H12N4O4
